US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(4-pyrrolo-[2,3-b]pyridin-1-ylphenyl)urea (Table 1, Compound No. 6)
The title compound can be synthesized from pyrrolo[2,3-b]pyridine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 1.

reactant | pyrrolo[2,3-b]pyridine | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(4-pyrrolo-[2,3-b]pyridin-1-ylphenyl)urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C=CC=2C1=NC=CC2)C(F)(F)F | C21H14ClF3N4O
